US07157464B2
Synthesis of 1-Bromo-3-isopropoxy-4-chlorobenzene
To 1.70 g (6.5 mmol) of triphenylphosphine in 25 mL of CH2Cl2 at 0° C. was added 1.14 g (6.5 mmol) of diethylazodicarboxylate. After 10 minutes, 390 mg (6.5 mmol) of isopropanol was added, followed rapidly by 1.03 g (5.0 mmol) of 3-Bromo-6-chlorophenol. The reaction was complete within three hours, and was partitioned between ether and water. The phases were separated, and the ether phase was diluted with hexanes and washed twice with 10% aqueous methanol and once with brine. The ether/hexanes phase was dried over Na2SO4, filtered, and concentrated in vacuo to yield product as a clear oil.

reactant | triphenylphosphine | 6.5 mmol, 1.70 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 6.5 mmol, 1.14 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | isopropanol | 6.5 mmol, 390 mg | C(C)(C)O | C3H8O
reactant | 3-Bromo-6-chlorophenol | 5.0 mmol, 1.03 g | BrC=1C=C(C(=CC1)Cl)O | C6H4BrClO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromo-3-isopropoxy-4-chlorobenzene | BrC1=CC(=C(C=C1)Cl)OC(C)C | C9H10BrClO
